US06982348B2
To a solution of methyl 3-hydroxybenzoate (7.68 g, 50.5 mmol) in N,N-dimethylformamide (100 ml) were added potassium carbonate (13.96 g, 101 mmol) and neopentyl iodide (10 g, 50.5 mmol), and the mixture was stirred at 100° C. overnight. The mixture was diluted with ethyl acetate, water and saturated brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=20:1, 10:1) to give methyl 3-(neopentyloxy)benzoate (4.69 g, 42%) as a colorless transparent oil.

reactant | methyl 3-hydroxybenzoate | 50.5 mmol, 7.68 g | OC=1C=C(C(=O)OC)C=CC1 | C8H8O3
reactant | potassium carbonate | 101 mmol, 13.96 g | C([O-])([O-])=O.[K+].[K+]
reactant | neopentyl iodide | 50.5 mmol, 10 g | C(C(C)(C)C)I | C5H11I
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | brine | [Cl-].[Na+].O
product | methyl 3-(neopentyloxy)benzoate | 4.69 g, 42% | C(C(C)(C)C)OC=1C=C(C(=O)OC)C=CC1 | C13H18O3
